US04321414
Using the procedure of Example 1, 50 mls. of methanol, 6.0 grams of tri-paratolylphosphine and 1.0 gram of ruthenium trichloride hydrate are stirred and heated at reflux under nitrogen for 24 hours to form tris(tri-paratolylphosphine) ruthenium dichloride as an insoluble powder which is recovered by filtration (4.2 grams).

reactant | tri-paratolylphosphine | 6.0 grams | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | ruthenium trichloride hydrate | 1.0 gram | O.[Ru](Cl)(Cl)Cl
solvent | methanol | CO | CH4O
product | tris(tri-paratolylphosphine) ruthenium dichloride | [Ru](Cl)Cl.C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C.C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C.C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | InChI=1S/3C21H21P.2ClH.Ru/c3*1-16-4-10-19(11-5-16)22(20-12-6-17(2)7-13-20)21-14-8-18(3)9-15-21;;;/h3*4-15H,1-3H3;2*1H;/q;;;;;+2/p-2
